* /home/saurabh/desktop/esim/examples/invertingamplifier/invertingamplifier.cir

.include lm_741.sub
r1  in net-_r1-pad2_ 1k
r3  net-_r1-pad2_ out 5k
v1  in gnd sine(0 3 50 0 0)
r4  out gnd 1k
r2  net-_r2-pad1_ gnd 1k
* u1  in plot_v1
* u2  out plot_v1
v3  net-_x1-pad7_ gnd 12
v2  gnd net-_x1-pad4_ 12
x1 ? net-_r1-pad2_ net-_r2-pad1_ net-_x1-pad4_ ? out net-_x1-pad7_ ? lm_741
.tran 1e-03 5000e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
