* /home/saurabh/esim-workspace/cmosinvertor/cmosinvertor.cir

.include INVCMOS.sub
* u2  out1 plot_v1
x1 out7 out1 INVCMOS
x2 out1 out2 INVCMOS
x3 out2 out3 INVCMOS
* u3  out2 plot_v1
* u4  out3 plot_v1
x4 out3 out4 INVCMOS
* u5  out4 plot_v1
x5 out4 out5 INVCMOS
* u6  out5 plot_v1
x6 out5 out6 INVCMOS
* u7  out6 plot_v1
* u8  out7 plot_v1
* u9  out6 net-_u1-pad1_ adc_bridge_1
* u10  net-_u1-pad2_ out7 dac_bridge_1
* u1  net-_u1-pad1_ net-_u1-pad2_ inverter
a1 [out6 ] [net-_u1-pad1_ ] u9
a2 [net-_u1-pad2_ ] [out7 ] u10
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             inverter, NgSpice Name: inverter
.model u1 inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 Sumanto=1 ) 
.tran 10e-03 2000e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
plot v(out5)
plot v(out6)
plot v(out7)
.endc
.end
