* /home/sumanto/esim-2.1/library/subcircuitlibrary/invert/invert.cir

.lib "../sky130_fd_pr/models/sky130.lib.spice" tt
.include sky130nfet.lib
.include sky130pfet.lib
xm2 net-_m1-pad1_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_  sky130_fd_pr__pfet_01v8  L=0.3 W=1.2 M=1
xm1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_  sky130_fd_pr__nfet_01v8  L=0.15 W=0.6 M=1
* u1  net-_m1-pad2_ net-_m2-pad3_ net-_m1-pad3_ net-_m1-pad1_ port
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
