* /home/sumanto/desktop/verilog/esim/lfsr/lfsr.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ? ? ? ? ? ? ? ? lfsr
v1  net-_u2-pad1_ gnd pulse(0 5 1 0.1n 0.1n 1000 1000)
v2  net-_u2-pad2_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 2)
v3  net-_u2-pad3_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 1000)
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [? ? ? ? ? ? ? ? ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
* Schematic Name:                             lfsr, NgSpice Name: lfsr
.model u1 lfsr(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
