* /home/sumanto/desktop/verilog/esim/moore1110withoverlap/moore1110withoverlap.cir

v1  clock gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  reset gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
v3  datain gnd pulse(0 5 0.1m 0.1m 0.1m 6 7)
* u5  clock reset datain net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ adc_bridge_3
* u6  net-_u2-pad4_ dataout dac_bridge_1
* u7  dataout plot_v1
* u1  clock plot_v1
* u3  reset plot_v1
* u4  datain plot_v1
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ jfsmmoorewithoverlap
a1 [clock reset datain ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] u5
a2 [net-_u2-pad4_ ] [dataout ] u6
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] u2
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             jfsmmoorewithoverlap, NgSpice Name: jfsmmoorewithoverlap
.model u2 jfsmmoorewithoverlap(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-00 30e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dataout) v(clock)+6 v(reset)+12 v(datain)+24
.endc
.end
