* /home/sumanto/desktop/verilog/esim/trafficcontroller/trafficcontroller.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ traffic_light_controller
* u4  clk rst net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u6  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ m12 m11 m10 s2 s1 s0 mt2 mt1 dac_bridge_8
* u5  net-_u2-pad11_ net-_u2-pad12_ mt0 m20 dac_bridge_2
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 1 2)
v2  rst gnd pulse(0 5 0.1n 0.1n 0.1n 1 1000)
* u3  rst plot_v1
* u1  clk plot_v1
* u7  m12 plot_v1
* u8  m11 plot_v1
* u9  m10 plot_v1
* u10  s2 plot_v1
* u11  s1 plot_v1
* u12  s0 plot_v1
* u13  mt2 plot_v1
* u14  mt1 plot_v1
* u15  mt0 plot_v1
* u16  m20 plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ ] [net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] [net-_u2-pad12_ ] u2
a2 [clk rst ] [net-_u2-pad1_ net-_u2-pad2_ ] u4
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [m12 m11 m10 s2 s1 s0 mt2 mt1 ] u6
a4 [net-_u2-pad11_ net-_u2-pad12_ ] [mt0 m20 ] u5
* Schematic Name:                             traffic_light_controller, NgSpice Name: traffic_light_controller
.model u2 traffic_light_controller(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rst)+66 v(clk) v(m12)+6 v(m11)+12  v(m10)+18 v(s2)+24 v(s1)+30 v(s0)+36 v(mt2)+42 v(mt1)+48 v(mt0)+54 v(m20)+60
.endc
.end
