* /home/sumanto/desktop/verilog/esim/uart/uart.cir

* u13  net-_u12-pad12_ net-_u12-pad9_ net-_u12-pad10_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u11-pad2_ net-_u13-pad17_ net-_u13-pad18_ ? ? ? ? ? ? ? ? net-_u13-pad27_ uart
* u9  net-_u12-pad11_ net-_u12-pad12_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ counter8bit
* u15  net-_u13-pad17_ net-_u13-pad18_ tx_out tx_empty dac_bridge_2
* u14  net-_u13-pad27_ rx_empty dac_bridge_1
* u16  tx_out plot_v1
* u18  tx_empty plot_v1
* u17  rx_empty plot_v1
* u8  ldtxdata plot_v1
* u10  txclk plot_v1
* u7  countclk plot_v1
* u6  reset plot_v1
* u5  txen plot_v1
* u4  rxclk plot_v1
* u3  uldtxen plot_v1
* u2  rxen plot_v1
* u1  rxin plot_v1
* u12  txclk ldtxdata countclk reset txen rxclk uldtxen rxen net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ adc_bridge_8
* u11  rxin net-_u11-pad2_ adc_bridge_1
v1  rxin gnd pulse(0 5 1000m 0.1n 0.1n 2m 4m)
v2  rxen gnd pulse(5 0 0.1n 0.1n 0.1n 1m 1000m)
v3  uldtxen gnd pulse(0 5 0.1n 0.1n 0.1n 2m 200m)
v4  rxclk gnd pulse(5 0 0.1n 0.1n 0.1n 1m 2m)
v5  txen gnd pulse(5 0 0.1n 0.1n 0.1n 1m 2m)
v6  reset gnd pulse(5 0 1m 0.1n 0.1n 1000m 1000m)
v7  countclk gnd pulse(5 0 0.1n 0.1n 0.1n 1m 2m)
v8  ldtxdata gnd pulse(5 0 0.1n 0.1n 0.1n 1m 1000m)
v9  txclk gnd pulse(5 0 0.1n 0.1n 0.1n 1m 2m)
a1 [net-_u12-pad12_ ] [net-_u12-pad9_ ] [net-_u12-pad10_ ] [net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ ] [net-_u12-pad13_ ] [net-_u12-pad14_ ] [net-_u12-pad15_ ] [net-_u12-pad16_ ] [net-_u11-pad2_ ] [net-_u13-pad17_ ] [net-_u13-pad18_ ] [? ? ? ? ? ? ? ? ] [net-_u13-pad27_ ] u13
a2 [net-_u12-pad11_ ] [net-_u12-pad12_ ] [net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ ] u9
a3 [net-_u13-pad17_ net-_u13-pad18_ ] [tx_out tx_empty ] u15
a4 [net-_u13-pad27_ ] [rx_empty ] u14
a5 [txclk ldtxdata countclk reset txen rxclk uldtxen rxen ] [net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ ] u12
a6 [rxin ] [net-_u11-pad2_ ] u11
* Schematic Name:                             uart, NgSpice Name: uart
.model u13 uart(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u9 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-03 200e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(tx_out)
plot v(tx_empty)
plot v(rx_empty)
plot v(ldtxdata)
plot v(txclk)
plot v(countclk)
plot v(reset)
plot v(txen)
plot v(rxclk)
plot v(uldtxen)
plot v(rxen)
plot v(rxin)
.endc
.end
