* /home/sumanto/desktop/verilog/esim/arbiter/arbiter.cir

* u5  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ arbiter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ counter4bit
* u6  net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ gnt3 gnt2 gnt1 gnt0 dac_bridge_4
* u4  clk rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u3  clk plot_v1
* u2  rst plot_v1
* u7  gnt3 plot_v1
* u8  gnt2 plot_v1
* u9  gnt1 plot_v1
* u10  gnt0 plot_v1
v1  rst gnd pulse(0 5 0.1n 0.1n 0.1n 1m 1000m)
v2  clk gnd pulse(0 5 0.1n 0.1n 0.1n 1m 2m)
* u11  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ req3 req2 req1 req0 dac_bridge_4
* u12  req3 plot_v1
* u13  req2 plot_v1
* u14  req1 plot_v1
* u15  req0 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] [net-_u5-pad7_ ] [net-_u5-pad8_ ] [net-_u5-pad9_ ] [net-_u5-pad10_ ] u5
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a3 [net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ ] [gnt3 gnt2 gnt1 gnt0 ] u6
a4 [clk rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a5 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [req3 req2 req1 req0 ] u11
* Schematic Name:                             arbiter, NgSpice Name: arbiter
.model u5 arbiter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter4bit, NgSpice Name: counter4bit
.model u1 counter4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(rst)+6 v(gnt3)+12 v(gnt2)+18 v(gnt1)+24 v(gnt0)+30 v(req3)+36 v(req2)+42  v(req1)+48 v(req0)+54
.endc
.end
