* /home/sumanto/desktop/verilog/esim/arraymultiplier/arraymultiplier.cir

* u2  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u2-pad9_ ? ? ? ? ? ? ? junsignedarraymultiplier
v1  net-_u5-pad1_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  net-_u5-pad2_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 1005)
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ counter8bit
* u4  out plot_v1
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u3  net-_u2-pad9_ out dac_bridge_1
a1 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u2-pad9_ ? ? ? ? ? ? ? ] u2
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a3 [net-_u5-pad1_ net-_u5-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u5
a4 [net-_u2-pad9_ ] [out ] u3
* Schematic Name:                             junsignedarraymultiplier, NgSpice Name: junsignedarraymultiplier
.model u2 junsignedarraymultiplier(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u1 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 1000e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
